US04956359
3-(4-Bromophenoxy)-1-azetidinecarboxamide
A stirred solution of 5.8 g (0.02 mole) of 3-(4-bromophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was treated with 3.8 g (4 ml) (0.06 mole) of 57% ammonium hydroxide. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and the solid which separated was collected by filtration, 5.3 g. Recrystallization from ethanol-water yielded 4.75 g (87.6%) of fine white crystals, m.p. 193°-194° C.

reactant | 3-(4-bromophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5.8 g | BrC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9BrClNO2
reactant | ammonium hydroxide | 0.06 mole, 4 ml, 3.8 g | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(4-Bromophenoxy)-1-azetidinecarboxamide | 4.75 g, 87.6% | BrC1=CC=C(OC2CN(C2)C(=O)N)C=C1 | C10H11BrN2O2
